US05300506
To a solution of 0.326 g (1.0 mmol, 1.0 equiv.) of 4-amino-3-iodo-N-methylbenzenemethanesulfonamide in 20 mL of dimethylformamide was added 0.541 g (2.0 mmol, 2.0 equiv.) of 1-t-butyldimethylsilyloxy-5-trimethylsilyl-4-pentyne, 0.278 g (1.0 mmol, 1.0 equiv.) of tetrabutylammonium chloride, 0.530 g (5.0 mmol, 5.0 equiv.) of sodium carbonate, 0.0131 g (0.05 mmol, 0.05 equiv.) of triphenylphosphine, and 0.0112 g (0.05 g, 0.05 equiv.) of palladium (II) acetate. The mixture was heated in a 100° C. oil bath for 16 hours. The mixture was cooled to room temperature and the dimethylformamide removed in vacuo. The residue was diluted with 75 mL of ethyl acetate and washed with 25 mL of saturated aqueous sodium bicarbonate. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to yield an oil. The oil was filtered through a plug of silica gel with 25% ethyl acetate in hexane to yield 0.411 g (88%) of 3-(3-t-butyldimethylsilyloxypropyl)-2-trimethylsilyl-N-methyl-1H-indole-5-methanesulfonamide.

reactant | 4-amino-3-iodo-N-methylbenzenemethanesulfonamide | 1.0 mmol, 0.326 g, 1.0 equiv. | NC1=C(C=C(C=C1)CS(=O)(=O)NC)I | C8H11IN2O2S
reactant | 1-t-butyldimethylsilyloxy-5-trimethylsilyl-4-pentyne | 2.0 mmol, 0.541 g, 2.0 equiv. | [Si](C)(C)(C(C)(C)C)OCCCC#C[Si](C)(C)C | C14H30OSi2
reactant | sodium carbonate | 5.0 mmol, 0.530 g, 5.0 equiv. | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium chloride | 1.0 mmol, 0.278 g, 1.0 equiv. | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium (II) acetate | 0.0112 g, 0.05 equiv. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.05 mmol, 0.0131 g, 0.05 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-(3-t-butyldimethylsilyloxypropyl)-2-trimethylsilyl-N-methyl-1H-indole-5-methanesulfonamide | 0.411 g, 88% | [Si](C)(C)(C(C)(C)C)OCCCC1=C(NC2=CC=C(C=C12)CS(=O)(=O)NC)[Si](C)(C)C | C22H40N2O3SSi2
